US07112638B2
Synthesis of 3-chloro-2,3-diphenyl-2-propenal
0.25 mol (23 mL) of POCl3 was added at 0° C. to a 0.3 mol (23.5 mL) of DMF. At the end of the addition, the mixture was allowed to warm to room temperature and stirred for 1 h. Then it was cooled again to 0° C. and treated with 0.1 mol (19.6 g) of deoxybenzoin. The resulting reaction mixture was allowed to reach room temperature, stirred for 12 h at the same temperature and subsequently heated at 100° C. for 2 h. Finally it was poured into a mixture of ice and 10% solution of sodium acetate in water. The oily precipitate was filtered and washed with cold methanol and hexane. The residue was crystallized. Yield 18.5 g (76%).

reactant | POCl3 | 0.25 mol, 23 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.3 mol, 23.5 mL | CN(C)C=O | C3H7NO
reactant | deoxybenzoin | 0.1 mol, 19.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-chloro-2,3-diphenyl-2-propenal | ClC(=C(C=O)C1=CC=CC=C1)C1=CC=CC=C1 | C15H11ClO
